US05260310
A solution of 42.5 mg of (2S,3S,5S)-5-[(R/S)-2-carbamoyl-1-methoxyethoxy]-2-hexyl-3-hydroxydecanoic acid (Example Kd)) in 10 ml of methylene chloride/acetonitrile (1:1) was treated with 1 g of molecular sieve (4 Å), 0.1 ml of triethylamine and 50 mg of HBTU. After stirring the reaction mixture was filtered and concentrated and the residue was partitioned between hexane and methanol/water (1:1); the aqueous methanolic phase was extracted with hexane, the hexane phase was dried and concentrated; the residue was subsequently chromatographed on silica gel with 5 percent methanol in methylene chloride. There were obtained 21 mg of (R/S)-3-[[(S)-1-[[(2S,3S)-3-hexyl-4-oxo-2-oxetanyl]methyl]dodecyl]oxy]-3-methoxypropionamide (epimers 3:1), m.p. 54°.

reactant | (2S,3S,5S)-5-[(R/S)-2-carbamoyl-1-methoxyethoxy]-2-hexyl-3-hydroxydecanoic acid | 42.5 mg | C(N)(=O)CC(O[C@H](C[C@@H]([C@@H](C(=O)O)CCCCCC)O)CCCCC)OC | C20H39NO6
reactant | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | HBTU | 50 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | methylene chloride acetonitrile | 10 ml | C(Cl)Cl.C(C)#N
product | (R/S)-3-[[(S)-1-[[(2S,3S)-3-hexyl-4-oxo-2-oxetanyl]methyl]dodecyl]oxy]-3-methoxypropionamide | 21 mg | C(CCCCC)[C@H]1[C@@H](OC1=O)C[C@H](CCCCCCCCCCC)OC(CC(=O)N)OC | C26H49NO5
